US08008303B2
5′-(Cyclohexanecarbonyl-amino)-2′-methyl-biphenyl-4-carboxylic acid {4-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-ethyl]-phenyl}-amide
A mixture of 5′-(Cyclohexanecarbonyl-amino)-2′-methyl-biphenyl-4-carboxylic acid (40 mg), 4-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-ethyl]-phenylamine (30 mg), EDAC (23 mg), HOBT (16 mg) and N-Methylmorpholine (26 μl) in dry DMF (1 ml) was stirred for 16 hrs. This mixture was then diluted with water (8 ml) and the tan solid produced collected and dried (45 mg).

reactant | 5′-(Cyclohexanecarbonyl-amino)-2′-methyl-biphenyl-4-carboxylic acid | 40 mg | C1(CCCCC1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C21H23NO3
reactant | 4-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-ethyl]-phenylamine | 30 mg | O=S1(CCN(CC1)CCC1=CC=C(C=C1)N)=O | C12H18N2O2S
reactant | EDAC | 23 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-Methylmorpholine | 26 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 8 ml | O | H2O
product | 5′-(Cyclohexanecarbonyl-amino)-2′-methyl-biphenyl-4-carboxylic acid {4-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-ethyl]-phenyl}-amide | O=S1(CCN(CC1)CCC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CCCCC1)C)=O | C33H39N3O4S
